US09290485B2
d) 1-((1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylic acid
Ethyl 1-((1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate (484 mg, 0.874 mmol) was dissolved in a mixture of MeOH (5 ml) and 1N NaOH (5.00 ml). The reaction mixture was stirred for 2 hr at 20° C. and the MeOH was removed by evaporation under reduced pressure. The aqeuous phase was washed with AcOEt, then acidified with HCl and extracted with AcOEt. The organic layer was concentrated under reduced pressure to afford the title compound. HPLC (Method H) Rt=2.74 min

reactant | Ethyl 1-((1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate | 0.874 mmol, 484 mg | COCCN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)OCC | C19H25N3O3
solvent | MeOH | 5 ml | CO | CH4O
solvent | NaOH | 1N, 5.00 ml | [OH-].[Na+]
product | 1-((1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylic acid | COCCN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)O | C17H21N3O3
